US08304546B2
To a 5-bromo-6-propoxyindan (8.24 g, 32.2 mmol) toluene solution (80 ml) were added a benzophenone imine (6.40 g, 35.3 mmol) toluene solution (40 ml), tris(dibenzylideneacetone)dipalladium (742 mg, 0.8 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (XANTPHOS, 936 mg, 1.6 mmol), and cesium carbonate (15.72 g, 48.3 mmol). The resulting mixture was stirred at 100° C. under a nitrogen atmosphere for 47 hours, and then cooled to room temperature. Water and saturated ammonium chloride solution were added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated to dryness under reduced pressure. The generated residue was dissolved in diethyl ether (130 ml). Concentrated hydrochloric acid (25 ml) was added to the solution, followed by stirring for 2 hours. A 5N aqueous sodium hydroxide solution (72 ml) was added to the reaction mixture to adjust its pH to 11, followed by concentration under reduced pressure. The residue was dissolved in dichloromethane and washed with an aqueous saturated sodium chloride solution. The thus-obtained organic layer was concentrated to dryness under reduced pressure, and the generated residue was then purified using silica gel column chromatography (dichloromethane:ethyl acetate=90:1). The purified product was concentrated to dryness under reduced pressure, giving a pale brown oily substance of 6-propoxy-indan-5-ylamine (1.02 g, yield: 17%).

reactant | 5-bromo-6-propoxyindan | 32.2 mmol, 80 ml, 8.24 g | BrC=1C=C2CCCC2=CC1OCCC | C12H15BrO
reactant | benzophenone imine | 35.3 mmol, 40 ml, 6.40 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 1.6 mmol, 936 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 48.3 mmol, 15.72 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.8 mmol, 742 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | 6-propoxy-indan-5-ylamine | 1.02 g, yield: 17% | C(CC)OC1=C(C=C2CCCC2=C1)N | C12H17NO
